US03992382
Similarly, following the above procedure but replacing the 1-[p-[ (7-chloro-4-quinolyl)amino]benzoyl]-4-methylpiperazine as used therein with an equal molar proportion of 1-[p-[ (4-quinolyl)amino]benzoyl]-4-methylpiperazine; 1-[p-[(7-chloro- 4-quinolyl)amino]benzoyl]-4-butylpiperazine; 1-[p-[ (7-chloro-4-quinolyl)amino]benzoyl]-4-benzylpiperazine; 1-[p-[(6-methoxy-4-quinolyl)amino]benzoyl]-4-methylpiperazine; 1-[p-[(5-isobutoxy-4-quinolyl)amino]benzoyl]-4-methylpiperazine; 1-[p-[(7-methyl-4-quinolyl)amino]benzoyl]- 4-methylpiperazine; 1-[p-[(6-isopropyl-4-quinolyl)amino] benzoyl]-4-methylpiperazine; 1-[p-[[(7-trifluoromethyl)- 4-quinolyl]amino]benzoyl]-4-isobutylpiperazine; 1-[p-[ [(7-trifluoromethyl)-4-quinolyl]amino]benzoyl]-4-benzylpiperazine; 1-[p-[[(7-trichloromethyl)-4-quinolyl]amino] benzoyl]-4-methylpiperazine; and 1-[p-[(7-chloro-4 -quinolyl)-N-ethylamino]benzoyl]-4-methylpiperazine,respectively, there is obtained 1-[p-[(4 -quinolyl)amino]benzoyl]-4-methylpiperazine-4-oxide; 1-[p-[(7-chloro-4-quinolyl)amino]benzoyl] -4-butylpiperazine-4-oxide; 1-[p-[(7-chloro-4-quinolyl)amino] benzoyl]-4-benzylpiperazine-4-oxide; 1-[p-[(6-methoxy- 4-quinolyl)amino]benzoyl]-4-methylpiperazine-4-oxide; 1-[p-[(5-isobutoxy-4-quinolyl)amino]benzoyl]-4-methylpiperazine-4-oxide; 1-[p-[(7-methyl-4-quinolyl)amino]benzoyl]- 4-methylpiperazine-4-oxide; 1-[p-[(6-isopropyl-4 -quinolyl)amino]benzoyl]-4-methylpiperazine-4-oxide; 1-[p-[[(7-trifluoromethyl)-4-quinolyl]amino]benzoyl]-4-isobutylpiperazine-4-oxide; 1-[p-[[(7-trifluoromethyl)-4-quinolyl]amino] benzoyl]-4-benzylpiperazine-4-oxide; 1-[p-[[(7-trichloromethyl)- 4-quinolyl]amino]benzoyl]-4-methylpiperazine-4-oxide; and 1-[p-[(7-chloro-4-quinolyl)-N-ethylamino] benzoyl]-4-methylpiperazine-4-oxide, respectively.

reactant | 1-[p-[ (7-chloro-4-quinolyl)amino]benzoyl]-4-methylpiperazine | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C21H21ClN4O
reactant | 1-[p-[ (4-quinolyl)amino]benzoyl]-4-methylpiperazine | N1=CC=C(C2=CC=CC=C12)NC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C21H22N4O
reactant | 1-[p-[(7-chloro- 4-quinolyl)amino]benzoyl]-4-butylpiperazine | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCN(CC2)CCCC)C=C1 | C24H27ClN4O
reactant | 1-[p-[ (7-chloro-4-quinolyl)amino]benzoyl]-4-benzylpiperazine | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCN(CC2)CC2=CC=CC=C2)C=C1 | C27H25ClN4O
reactant | 1-[p-[(6-methoxy-4-quinolyl)amino]benzoyl]-4-methylpiperazine | COC=1C=C2C(=CC=NC2=CC1)NC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C22H24N4O2
reactant | 1-[p-[(5-isobutoxy-4-quinolyl)amino]benzoyl]-4-methylpiperazine | C(C(C)C)OC1=C2C(=CC=NC2=CC=C1)NC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C25H30N4O2
reactant | 1-[p-[(7-methyl-4-quinolyl)amino]benzoyl]- 4-methylpiperazine | CC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C22H24N4O
reactant | 1-[p-[(6-isopropyl-4-quinolyl)amino] benzoyl]-4-methylpiperazine | C(C)(C)C=1C=C2C(=CC=NC2=CC1)NC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C24H28N4O
product | 1-[p-[(4 -quinolyl)amino]benzoyl]-4-methylpiperazine-4-oxide | N1=CC=C(C2=CC=CC=C12)NC1=CC=C(C(=O)N2CC[N+](CC2)(C)[O-])C=C1 | C21H22N4O2
